US05001160
To a solution of 259.9 g (1.4 mole) of 1-cyclobutyl-1-hydroxy-1-phenyl-2-propyne in 1500 mL of acetic acid and 150 mL of acetic anhydride was added 445.2 g (1.4 mole) of mercuric acetate. The mixture was stirred overnight at room temperature. The solution was diluted with 1.5 L of methylene chloride and to it was added 1.5 L of celite and 115 g of acetamide. After being stirred for 24 hours, the mixture was filtered through a pad of celite. The solid residue was washed four times with 500 mL portions of methylene chloride. The organic layers were combined, washed three times with water, three times with saturated sodium bicarbonate. The solvent was removed under reduced pressure. The residue was dissolved in 1200 mL of methanol and 102 g (1.54 mole) of potassium hydroxide was added. The mixture was brought to reflux for 2 hours and allowed to cool to room temperature. The mixture was diluted with 1500 mL of water and extracted four times with 500 mL of ether. The organic layers were combined washed three times with water, dried over anhydrous magnesium sulfate and the solvent removed under reduced pressure. The residue was distilled bulb-to-bulb to give 224.5 g of 1-cyclobutyl-1-hydroxy-1-phenyl-2-propanone, bath temperature 110° C. NMR (CDCl3) 1.7-2.2 (m, 6 H), 2.0 (s, 3 H), 3.5 (m, 1 H), 4.7 (s, 1 H), 7.2-7.5 (m, 5 H); IR (neat film) 3460, 2940, 1710, 1360, 1140, 760, 700 cm-1.

reactant | 1-cyclobutyl-1-hydroxy-1-phenyl-2-propyne | 1.4 mole, 259.9 g | C1(CCC1)C(C#C)(C1=CC=CC=C1)O | C13H14O
reactant | acetamide | 115 g | C(C)(=O)N | C2H5NO
reactant | potassium hydroxide | 1.54 mole, 102 g | [OH-].[K+]
solvent | acetic acid | 1500 mL | C(C)(=O)O | C2H4O2
solvent | acetic anhydride | 150 mL | C(C)(=O)OC(C)=O | C4H6O3
solvent | methylene chloride | 1.5 L | C(Cl)Cl | CH2Cl2
solvent | water | 1500 mL | O | H2O
product | 1-cyclobutyl-1-hydroxy-1-phenyl-2-propanone | 224.5 g | C1(CCC1)C(C(C)=O)(C1=CC=CC=C1)O | C13H16O2
